US07326791B2
(b) 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzoic acid
2.00 g (8.80 mmol) of contaminated 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzonitrile is placed in 60 mL of 50% acetic acid solution at 0° C. and slowly combined with 30 mL of concentrated sulfuric acid with stirring and cooling in the ice bath. The reaction mixture is heated to 100° C. for 17 hours and then poured into 500 mL of ice water. The precipitated product formed is filtered off. The mother liquor is combined with sodium chloride and extracted with 300 mL of ethyl acetate, washed with saturated sodium chloride solution, dried with magnesium sulfate, and the solvent is distilled off. The residue remaining is combined with the above precipitate. Yield: 1.25 g (40% over 2 steps); Rf value: 0.55 (silica gel; ethyl acetate/ethanol=9:1); C12H10N2O2S (246.29); mass spectrum: (M+H)+=247

reactant | 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzonitrile | 8.80 mmol, 2.00 g | S1C=2N(CC1)C(=CN2)C2=CC=C(C#N)C=C2 | C12H9N3S
reactant | sulfuric acid | 30 mL | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 60 mL | C(C)(=O)O | C2H4O2
product | 4-(2,3-dihydroimidazo[2,1-b]thiazol-5-yl)benzoic acid | S1C=2N(CC1)C(=CN2)C2=CC=C(C(=O)O)C=C2 | C12H10N2O2S
